US05604004
Synthesis of ligand intermediate (4-isopropylbenzaldehyde-(5-nitro-2-pyridyl)hydrazone)
In 50 ml of ethanol were dispersed 3.03 g of 2-hydrazino-5-nitropyridine and 3.08 g of 4-isopropylbenzaldehyde. The dispersion was refluxed at 90° C. for one hour. The reaction solution was allowed to cool at room temperature and further cooled down to 5° to 10° C. to cause crystals to fully precipitate, which were collected by suction filtration. The crystals were washed with a small amount of ethanol and dried in vacuum at 60° C. for 1.5 hours, obtaining 3.51 g (yield 62%) of dark yellow acicular crystals.

reactant | 2-hydrazino-5-nitropyridine | 3.03 g | N(N)C1=NC=C(C=C1)[N+](=O)[O-] | C5H6N4O2
reactant | 4-isopropylbenzaldehyde | 3.08 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-isopropylbenzaldehyde-(5-nitro-2-pyridyl)hydrazone | 3.51 g, yield 62% | [N+](=O)([O-])C=1C=CC(=NC1)NN=CC1=CC=C(C=C1)C(C)C | C15H16N4O2
